US05510353
a) (4-methoxy-benzyl) acetonyl sulfide
0.165 Mol sodium hydride is added portionwise at 0° to a solution of 4-methoxy-thiophenol (0.15 mol) in 300 ml THF. After 1 hour chloracetone (0.165 mol) is added. The mixture is stirred overnight at room temperature. Thereafter the solvent is evaporated and the mixture is dissolved in CH2Cl2 and washed with 2 N Na2CO3. The organic phase is dried and the solvent is evaporated to yield the title a) compound which is used without further purification.

reactant | sodium hydride | 0.165 Mol | [H-].[Na+]
reactant | 4-methoxy-thiophenol | 0.15 mol | COC1=CC=C(C=C1)S | C7H8OS
reactant | chloracetone | 0.165 mol | ClCC(C)=O | C3H5ClO
reactant | THF | 300 ml | C1CCOC1 | C4H8O
product | (4-methoxy-benzyl) acetonyl sulfide | C(C(=O)C)SCC1=CC=C(C=C1)OC | C11H14O2S
